US06642395B1
3) Preparation of (R)-2-(3-Chlorophenyl)-2-(3,4,5,6-tetrahydro-[2H]-pyran-2-yloxy)ethanol
Into toluene (15 ml) were added (R)-2-(3-chlorophenyl)-2-(3,4,5,6-tetrahydro-[2H]-pyran-2-yloxy)-mandelic acid methyl ester (7.0 g) obtained in 2) above and then, under ice cooling and dropwise, a 70% sodium dihydrobis(2-methoxyethoxy)aluminate toluene solution (7.67 g). The resulting mixture was stirred at the same temperature for 1 hour. Then the reaction mixture was added into a 30% aqueous (+)−potassium sodium tartrate solution (27.6 g), the resulting mixture was stirred for 1 hour and then the organic layer was separated. The organic layer obtained was washed with water and further with a saturated aqueous sodium chloride solution and then dried with anhydrous magnesium sulfate. The desciccant was filtered off and then the solvent was distilled off to obtain a colorless oily compound mentioned above (6.2 g, 98.1%).

reactant | (R)-2-(3-chlorophenyl)-2-(3,4,5,6-tetrahydro-[2H]-pyran-2-yloxy)-mandelic acid methyl ester | 7.0 g | COC([C@H](O)C1C(C=CC=C1)(OC1OCCCC1)C1=CC(=CC=C1)Cl)=O | C20H23ClO5
reactant | (+)−potassium sodium tartrate | 27.6 g | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-2-(3-Chlorophenyl)-2-(3,4,5,6-tetrahydro-[2H]-pyran-2-yloxy)ethanol | ClC=1C=C(C=CC1)[C@H](CO)OC1OCCCC1 | C13H17ClO3
